US04203909
When an isopropyl alcohol solution of dimethyl cyanodithioimidocarbonate [prepared according to the procedure described in J. Org. Chem., 32, 1566 (1967)] is reacted with 2-[(5-{[N-ethyl-N-methylamino]methyl}-2-furyl)methylthio]ethylamine and the resultant N-cyano-N'-2-[(5-{[N-ethyl-N-methylamino]methyl}-2-furyl)methylthio]-ethyl}-S-methylisothiourea treated with propargylamine in the procedure of Example 2, there is produced N-cyano-N'-(2-propyn-1-yl)-N"-{2-[(5-{[N-ethyl-N-methylamino]methyl}-2-furyl)methylthio]ethyl}guanidine.

reactant | dimethyl cyanodithioimidocarbonate | C(#N)N=C(SC)SC | C4H6N2S2
reactant | 2-[(5-{[N-ethyl-N-methylamino]methyl}-2-furyl)methylthio]ethylamine | C(C)N(C)CC1=CC=C(O1)CSCCN | C11H20N2OS
reactant | methylisothiourea | CNC(S)=N | C2H6N2S
reactant | propargylamine | C(C#C)N | C3H5N
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | N-cyano-N'-(2-propyn-1-yl)-N"-{2-[(5-{[N-ethyl-N-methylamino]methyl}-2-furyl)methylthio]ethyl}guanidine | C(#N)NC(=NCCSCC=1OC(=CC1)CN(C)CC)NCC#C | C16H23N5OS
